US09290517B2
Step B: (3R,3aR,6R,6aR)-6-((6-([1,1′-biphenyl]-4-yl)-3H-imidazo[4,5-c]pyridin-2-yl)oxy)hexahydrofuro[3,2-b]furan-3-ol
To 6-([1,1′-biphenyl]-4-yl)-2-(((3R,3aR,6R,6aS)-6-((tert-butyldimethylsilyl)oxy)hexahydrofuro[3,2-b]furan-3-yl)oxy)-3-((2-(trimethylsilyl)ethoxy)methyl)-3H-imidazo[4,5-c]pyridine (26.0 mg, 0.039 mmol) in anhydrous DCM (1.23 mL) was added TFA (0.91 mL, 11.82 mmol). The solution stirred at RT for 52 h. The reaction solution was evaporated under reduced pressure. The residue extracted into EtOAc (35 mL) and washed with 1N NaOH (6.0 mL, 6 mmol) and water (10 mL), dried over Na2SO4, filtered, and evaporated under reduced pressure to afford the title compound. LC-MS: calculated for C24H21N3O4 415.15 observed m/e: 416.16 (M+H)+ (Rt 1.34/2.0 min).

reactant | 6-([1,1′-biphenyl]-4-yl)-2-(((3R,3aR,6R,6aS)-6-((tert-butyldimethylsilyl)oxy)hexahydrofuro[3,2-b]furan-3-yl)oxy)-3-((2-(trimethylsilyl)ethoxy)methyl)-3H-imidazo[4,5-c]pyridine | 0.039 mmol, 26.0 mg | C1(=CC=C(C=C1)C1=CC2=C(C=N1)N(C(=N2)O[C@H]2[C@@H]1[C@H](OC2)[C@@H](CO1)O[Si](C)(C)C(C)(C)C)COCC[Si](C)(C)C)C1=CC=CC=C1 | C36H49N3O5Si2
reactant | TFA | 11.82 mmol, 0.91 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaOH | 6 mmol, 1N, 6.0 mL | [OH-].[Na+]
solvent | DCM | 1.23 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | (3R,3aR,6R,6aR)-6-((6-([1,1′-biphenyl]-4-yl)-3H-imidazo[4,5-c]pyridin-2-yl)oxy)hexahydrofuro[3,2-b]furan-3-ol | C1(=CC=C(C=C1)C1=CC2=C(C=N1)NC(=N2)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O)C1=CC=CC=C1 | C24H21N3O4
